US07446216B2
4-Bromo-1-methoxy-2-methylindane
To a solution of 149.5 g (0.664 mol) of 4-bromo-2-methyl-1-indanone in 900 ml of THF-methanol (2:1, vol.), 37.6 g (0.995 mol) of NaBH4 was added in small portions with vigorous stirring over 1.5 hours at 5° C. This mixture was stirred at room temperature for 12 hours and then added to 2 L of cold water. The hydrogenation product was extracted with 5×200 ml of dichloromethane, and the combined extract was evaporated to dryness. To 149 g (2.65 mol) of KOH in 420 ml of DMSO, 188 g (82.5 ml, 1.33 mol) of MeI, and a solution of the crude 4-bromo-2-methylindan-1-ol in 220 ml of DMSO were added. This mixture was stirred for 2 hours at ambient temperature; then, 92.0 g (40.4 ml, 0.664 mol) of MeI was added, and the mixture was additionally stirred for 2 hours. The resulting mixture was added to 2.5 L of cold water. The crude product was extracted with 5×200 ml of dichloromethane. The combined extract was dried over Na2SO4, and then evaporated to dryness. Fractional distillation gave a mixture of two diastereomeric compounds, b.p. 108° C./3 mm Hg. Yield, 148.5 g (93%) of a colorless oil.

reactant | 4-bromo-2-methyl-1-indanone | 0.664 mol, 149.5 g | BrC1=C2CC(C(C2=CC=C1)=O)C | C10H9BrO
reactant | NaBH4 | 0.995 mol, 37.6 g | [BH4-].[Na+]
reactant | KOH | 2.65 mol, 149 g | [OH-].[K+]
reactant | MeI | 1.33 mol, 82.5 ml, 188 g | CI | CH3I
reactant | 4-bromo-2-methylindan-1-ol | BrC1=C2CC(C(C2=CC=C1)O)C | C10H11BrO
reactant | MeI | 0.664 mol, 40.4 ml, 92.0 g | CI | CH3I
solvent | THF methanol | 900 ml | C1CCOC1.CO
solvent | DMSO | 420 ml | CS(=O)C | C2H6OS
solvent | DMSO | 220 ml | CS(=O)C | C2H6OS
solvent | water | 2.5 L | O | H2O
solvent | water | 2 L | O | H2O
product | 4-Bromo-1-methoxy-2-methylindane | BrC1=C2CC(C(C2=CC=C1)OC)C | C11H13BrO
